Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1],4.29968401343
[H:11].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:12][H:13]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],-1.81417386978
[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2](=[C:3][H:4])[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.5705218024599998
[H:1][C:2]#[C:4][O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11],-2.41161634324
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[C:7]([H:8])#[C:9][H:10],1.76226380808
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11].[O:12][H:13],5.49118563988
[C:3]([H:4])=[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-6.20068435554
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16].[H:3],5.0154905046
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]#[C:11][H:12],1.9663107960900004
[C:5](=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@:3]([H:4])([C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.9672004345
[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])=[C:7][H:8].[H:9]>>[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])=[C:7]([H:8])[H:9],-5.24396429327
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[H:10].[O:1]=[C:2][H:3],1.01791279329
[C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.96880285151
[O:1]=[C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]1[O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[H:12],-3.15179421504
[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])=[C:13]([H:14])[H:15].[H:1][C:2]([H:3])(/[C:4]([H:5])=[C:8]/[C:9]([H:10])([H:11])[H:12])[H:16],1.76417486105
[O:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[O:2],1.51497719312
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:4],3.7543148129800006
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5][H:6],6.13736112116
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],1.99062993338
[C:1]=[C:2]1[O:3][C:4]([O:5][H:6])=[C:7]1[H:8]>>[C:1]#[C:2][O:3][C:4]([O:5][H:6])=[C:7][H:8],2.28353513288
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:12],2.01336739072
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8].[H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][H:9],-4.87233342974
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11],0.7864869656100001
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[O:11][H:12],5.3928653708
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[H:8]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[H:8].[O:1],4.1292780239
[O:1]=[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1]=[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10],3.82118218431
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-6.15613853897
[C:5][O:6][H:7].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5][O:6][H:7],-2.53659291406
[H:1][C:2]#[C:3][O:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]#[C:3][O:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1],5.478257708840001
[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.30373200593
